US06531494B1
Ethyl 4-(2-bromo-4-methoxyphenyl)-3,3-dimethylbutanoate
Silver nitrate (21 g, 124 mmoles) was dissolved in 35 mL H2O and added to a solution of 4-(2-bromo-4-methoxyphenyl)-3,3-dimethylbutanal (11 g, 38.6 mmoles) in 250 mL ethanol. A solution of NaOH (10 g, 250 mmoles) in 35 mL of H2O was added dropwise, then the reaction was stirred at room temperature for 2 hours. The reaction was passed through a short pad of Celite. Then, the ethanol was evaporated and the residue was partioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate (2×200 mL). The organic layers were discarded. The water layer was acidified with 2 N HCl solution to pH=2, and extracted with ethyl acetate (3×200 mL). The organic extracts were washed with brine, dried (Na2SO4), and concentrated to afford an oil. The oil was dissolved in 60 mL of 4N HCl in dioxane and 120 mL of absolute ethanol overnight at 25° C. The reaction was evaporated to dryness then taken up in ethyl acetate and extracted with a saturated solution of aqueous sodium bicarbonate, brine, dried (Na2SO4), and evaporated to give 9.1 g (71%) of the desired compound. NMR spectrum of the product was consistent for the proposed structure.

reactant | 4-(2-bromo-4-methoxyphenyl)-3,3-dimethylbutanal | 38.6 mmoles, 11 g | BrC1=C(C=CC(=C1)OC)CC(CC=O)(C)C | C13H17BrO2
reactant | NaOH | 250 mmoles, 10 g | [OH-].[Na+]
reactant | ethanol | 250 mL | C(C)O | C2H6O
reactant | ethanol | 120 mL | C(C)O | C2H6O
solvent | H2O | 35 mL | O | H2O
solvent | H2O | 35 mL | O | H2O
solvent | HCl | 4N, 60 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Silver nitrate | 124 mmoles, 21 g | [N+](=O)([O-])[O-].[Ag+]
product | Ethyl 4-(2-bromo-4-methoxyphenyl)-3,3-dimethylbutanoate | 9.1 g, 71% | BrC1=C(C=CC(=C1)OC)CC(CC(=O)OCC)(C)C | C15H21BrO3
